US07507736B2
d) 6-Chloro-5-hydroxy-1H-indole-2-carboxylic acid ethyl ester
To a cooled (−78° C.) solution of 6-chloro-5-methoxy-1H-indole-2-carboxylic acid ethyl ester (930 mg, 1.0 eq.) in dichloromethane (20 mL), was slowly added a 1M solution of boron tribromide in dichloromethane (7.33 mL, 2.0 eq.). The mixture was stirred at room temperature for 1 h, partitioned between ethyl acetate and ice water. The aqueous layer was extracted with ethyl acetate and the combined organic fractions were washed with 10% sodium bicarbonate solution and brine, dried over sodium sulfate, filtered, evaporated to dryness and purified on silica gel, eluting with a 4:1 to 3:1 gradient of cyclohexane/ethyl acetate, to yield 655 mg (74%) of the title compound as a light-brown solid.

reactant | 6-chloro-5-methoxy-1H-indole-2-carboxylic acid ethyl ester | 930 mg, 1.0 eq. | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)OC)Cl | C12H12ClNO3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 7.33 mL, 2.0 eq. | ClCCl | CH2Cl2
product | 6-Chloro-5-hydroxy-1H-indole-2-carboxylic acid ethyl ester | 655 mg, 74% | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)O)Cl | C11H10ClNO3
